US05821246
Using an analogous procedure to that described in the first paragraph of the portion of Example 8 which is concerned with the preparation of starting materials, 3-chloro-4-fluoronitrobenzene was reacted with 2-thienylmethanol to give 2-chloro-4-nitrophenyl 2-thienylmethyl ether in 40% yield.

reactant | 3-chloro-4-fluoronitrobenzene | ClC=1C=C(C=CC1F)[N+](=O)[O-] | C6H3ClFNO2
reactant | 2-thienylmethanol | S1C(=CC=C1)CO | C5H6OS
product | 2-chloro-4-nitrophenyl 2-thienylmethyl ether | 40% yield | S1C(=CC=C1)COC1=C(C=C(C=C1)[N+](=O)[O-])Cl | C11H8ClNO3S
